US05571775
55. Preparation of t-Butyl N-(4-ethoxy-2-fluoro-3-pyridinyl)carbamate
To a solution of 18.5 g (13 1 mmol) of 4-ethoxy-2-fluoropyridine in 300 mL of dry tetrahydrofuran at -78° C. was added slowly, with stirring and cooling to maintain the temperature below -65° C., 58 mL of 2.5M butyl lithium in hexane. The mixture was allowed to react for 1 hr and then the resulting slurry was poured into 1300 mL of ether containing excess powdered dry ice (carbon dioxide). The fine white precipitate that formed was collected by filtration and dried under reduced pressure for 90 min. The hygroscopic solid obtained was taken into 700 mL of t-butanol and 68 g (0.24 mol) of diphenyl phosphoryl azide was added with stirring. This mixture was slowly warmed to reflux for 2 hr during which time there was a vigorous evolution of nitrogen. The resulting slurry was filtered and the filtrate was diluted with 800 mL of dichloromethane. The organic phase was separated, washed with water (2×100 mL), and concentrated by evaporation to obtain a semi-solid residue. This was dissolved in fresh dichloromethane and the solution was dried over magnesium sulfate, filtered, and concentrated by evaporation. The residue was purified by column chromatography to obtain 19.5 g (63 percent of theory) of the title compound as a colorless solid melting at 130°-131° C.

reactant | 4-ethoxy-2-fluoropyridine | 1 mmol, 18.5 g | C(C)OC1=CC(=NC=C1)F | C7H8FNO
reactant | butyl lithium | 2.5M, 58 mL | C(CCC)[Li]
reactant | ether | 1300 mL | CCOCC | C4H10O
reactant | diphenyl phosphoryl azide | 0.24 mol, 68 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | t-butanol | 700 mL | C(C)(C)(C)O | C4H10O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | dichloromethane | ClCCl | CH2Cl2
product | t-Butyl N-(4-ethoxy-2-fluoro-3-pyridinyl)carbamate | C(C)OC1=C(C(=NC=C1)F)NC(OC(C)(C)C)=O | C12H17FN2O3
